US05994368
The mixture of 4-chloro-8-hydroxy-2-methylquinoline 600 mg), piperidine (6.13 ml) and tetrabutylammonium iodide (10 mg) was refluxed for 18 hours. The cooled reaction mixture was concentrated in vacuo and to the residue was added chloroform and aqueous sodium bicarbonate solution. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from n-hexane to give 8-hydroxy-2-methyl-4-piperidinoquinoline (712 mg) as pale brown crystals.

reactant | 4-chloro-8-hydroxy-2-methylquinoline | 600 mg | ClC1=CC(=NC2=C(C=CC=C12)O)C | C10H8ClNO
reactant | piperidine | 6.13 ml | N1CCCCC1 | C5H11N
catalyst | tetrabutylammonium iodide | 10 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 8-hydroxy-2-methyl-4-piperidinoquinoline | 712 mg | OC=1C=CC=C2C(=CC(=NC12)C)N1CCCCC1 | C15H18N2O
